US08808703B2
Step 5: 3-(4-(2-((R)-2-amino-3-((R)-2,3-bis(dodecanoyloxy)propylthio)propanamido)ethyl)phenoxy)propylphosphonic acid
To a solution of (R)-3-((R)-2-amino-3-(4-(3-(diethoxyphosphoryl)propoxy)phenethylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate (1 eq) in DCM (0.1 M) was added trimethylsilyl bromide (10 eq). The reaction mixture was stirred at room temperature overnight and then concentrated. The crude mixture was purified by reverse phase high performance liquid chromatography (HPLC) with C4 column eluting with a gradient of 50-100% MeCN/10 mM NH4OAc (95:5) in 10 mM NH4OAc (pH 9) to give the product as a white solid. 1H NMR (DMSO-d6): δ 7.13 (d, 2H), 6.85 (d, 2H), 5.10-5.19 (m, 2H), 4.28 (dd, 1H), 4.12 (dd, 1H), 3.97 (t, 1H), 3.81-3.90 (m, 1H), 2.93 (dd, 1H), 2.70-2.86 (m, 3H), 2.64-2.70 (m, 2H), 2.31-2.35 (m, 2H), 2.24-2.31 (m, 2H), 2.14-2.21 (m, 2H), 1.82-1.93 (m, 4H), 1.57-1.70 (m, 4H), 1.41-1.57 (m, 4H), 1.07-1.38 (m, 32H), 0.85 (t, 6H). LRMS [M+H]=801.5.

reactant | (R)-3-((R)-2-amino-3-(4-(3-(diethoxyphosphoryl)propoxy)phenethylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate | 1 eq | C(CCCCCCCCCCC)(=O)OC[C@H](CSC[C@@H](C(=O)NCCC1=CC=C(C=C1)OCCCP(=O)(OCC)OCC)N)OC(CCCCCCCCCCC)=O | C45H81N2O9PS
reactant | trimethylsilyl bromide | 10 eq | C[Si](C)(C)Br | C3H9BrSi
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | 3-(4-(2-((R)-2-amino-3-((R)-2,3-bis(dodecanoyloxy)propylthio)propanamido)ethyl)phenoxy)propylphosphonic acid | N[C@H](C(=O)NCCC1=CC=C(OCCCP(O)(O)=O)C=C1)CSC[C@@H](COC(CCCCCCCCCCC)=O)OC(CCCCCCCCCCC)=O | C41H73N2O9PS
